US07713979B2
1-Cycloheptyl-3-(2,4-dichloro-benzyl)-pyrrolidin-2-one
Charge vial with 3-(2,4-dichloro-benzyl)-dihydro-furan-2-one (300 mg, 1.2 mmol) and cycloheptylamine (139 mg, 1.2 mmol) and heat to 140° C. for 3 hours. Then heat to 195° C. overnight. Cool to room temperature and purify over silica gel which affords 135 mg (32%) of the title compound: Mass spectrum (apci) m/z=340.2 (M+H).

reactant | 3-(2,4-dichloro-benzyl)-dihydro-furan-2-one | 1.2 mmol, 300 mg | ClC1=C(CC2C(OCC2)=O)C=CC(=C1)Cl | C11H10Cl2O2
reactant | cycloheptylamine | 1.2 mmol, 139 mg | C1(CCCCCC1)N | C7H15N
product | 1-Cycloheptyl-3-(2,4-dichloro-benzyl)-pyrrolidin-2-one | 135 mg, 32% | C1(CCCCCC1)N1C(C(CC1)CC1=C(C=C(C=C1)Cl)Cl)=O | C18H23Cl2NO
